US04714778
Preparation of 5-(cyclopent-2-enyl)-2,4-toluenediamine
A 200 g (1.64 mol) portion of 2,4-toluenediamine, 162 g (1.23 mol, 2.45 equiv) of dicyclopentadiene, 200 g (2.78 mol) of pentane, and 20.0 g of an amorphous alumina-silica catalyst comprised of 13% alumina and 87% silica were charged to a 1000 cc pressure vessel equipped with a mechanical stirrer. The vessel was sealed and purged with nitrogen leaving a 32 psig nitrogen blanket. The vessel contents were heated to 205° C. with stirring and were maintained at that temperature for 22 hr. The contents were cooled to 150° C. and isolated catalyst free by hot filtration. Selective removal of residual hydrocarbons by vacuum distillation and analysis by gas chromatography (GC) revealed the following product mixture:

reactant | 2,4-toluenediamine | C=1(C(=CC(=CC1)N)N)C | C7H10N2
reactant | dicyclopentadiene | 1.23 mol, 162 g, 2.45 equiv | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | pentane | 2.78 mol, 200 g | CCCCC | C5H12
product | 5-(cyclopent-2-enyl)-2,4-toluenediamine | C1(C=CCC1)C1=C(C=C(C(=C1)C)N)N | C12H16N2
